** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/tb/sar_10_bit_tb.sch
**.subckt sar_10_bit_tb C1 C2 C3 C4 C5 C6 C7 C8 C0 C9 busy valid Voutn
*.opin C1
*.opin C2
*.opin C3
*.opin C4
*.opin C5
*.opin C6
*.opin C7
*.opin C8
*.opin C0
*.opin C9
*.opin busy
*.opin valid
*.iopin Voutn
x1 RSTN busy START valid vcm vrefp ainn ainp CLK C0 C9 C1 C5 C6 C2 C7 C3 C8 C4 vss vddh Voutn vddl sar_10_bit
V_VIN ainn GND dc {VCM - VDIFF/2}
VDD_SRC vddh GND dc {VDDH}
V_VINP ainp GND dc {VCM + VDIFF/2}
V_VSS vss GND dc 0
V_CLK CLK GND PULSE(0 {VDDL} 0n 20p 20p 10n 20n)
V_VCM1 vcm GND dc {VCM}
VREFP_SRC vrefp GND dc {VDDH}
V_RSTN RSTN GND PULSE(0 {VDDL} 60n 20p 20p 10u 20u)
V_START START GND PULSE(0 {VDDL} 100n 20p 20p 20n 2u)
VDD_SRC1 vddl GND dc {VDDL}
**** begin user architecture code


.control

set noaskquit
set num_threads=6

setplot const

let vin_vec = vector(3)
let code_vec = vector(3)
let valid_vec = vector(3)

let vin_vec[0] = -1.6
let vin_vec[1] = 0
let vin_vec[2] = 1.6

let index = 0


echo
echo ============================================================
echo BASIC_SAR_ADC_FUNCTIONAL_TEST
echo ============================================================


repeat 3

  let vdiff_now = vin_vec[index]
  let vinp_now = 1.65 + vdiff_now/2
  let vinn_now = 1.65 - vdiff_now/2

  echo
  echo ============================================================
  echo TEST_POINT
  echo INDEX
  print index
  echo VDIFF
  print vdiff_now
  echo VINP
  print vinp_now
  echo VINN
  print vinn_now
  echo ============================================================

  alter V_VINP $&vinp_now
  alter V_VIN $&vinn_now


  * One complete ADC conversion
  tran 100p 1.30u 0 100p


  * Check conversion completed
  meas tran valid_max MAX v(valid) FROM=100n TO=1.30u


  * Read result after VALID
  meas tran c9v FIND v(C9) AT=1.28u
  meas tran c8v FIND v(C8) AT=1.28u
  meas tran c7v FIND v(C7) AT=1.28u
  meas tran c6v FIND v(C6) AT=1.28u
  meas tran c5v FIND v(C5) AT=1.28u
  meas tran c4v FIND v(C4) AT=1.28u
  meas tran c3v FIND v(C3) AT=1.28u
  meas tran c2v FIND v(C2) AT=1.28u
  meas tran c1v FIND v(C1) AT=1.28u
  meas tran c0v FIND v(C0) AT=1.28u


  * Decode 10-bit output
  let adc_code = 512*(c9v gt 0.6) + 256*(c8v gt 0.6) + 128*(c7v gt 0.6) + 64*(c6v gt 0.6) + 32*(c5v gt 0.6) + 16*(c4v gt 0.6) + 8*(c3v gt 0.6) + 4*(c2v gt 0.6) + 2*(c1v gt 0.6) + (c0v gt 0.6)

  let valid_ok = valid_max gt 0.6


  * Store results
  let code_vec[index] = adc_code
  let valid_vec[index] = valid_ok


  echo
  echo ADC_CODE
  print adc_code

  echo VALID_OK
  print valid_ok


  * Delete transient waveform to save memory
  destroy $curplot

  setplot const

  let index = index + 1

end


echo
echo ============================================================
echo BASIC_ADC_TEST_RESULTS
echo ============================================================

echo INPUTS
print vin_vec

echo CODES
print code_vec

echo VALID_FLAGS
print valid_vec


plot code_vec vs vin_vec pointplot


.endc



.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ

.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.include /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice





.param VDDH=3.3
.param VDDL=1.2

.param VREF=3.3
.param VCM=1.65

.param NBITS=10
.param Cu=10f

* LSB = 3.3 / 1024 = 3.22265625 mV
.param VDIFF=0


*.options savecurrents
.options reltol=1e-4
.options abstol=1e-12
.options vntol=1e-6

.options method=gear
.options maxord=2

.options plotwinsize=0
.options itl4=500

.save v(valid)

.save v(C9)
.save v(C8)
.save v(C7)
.save v(C6)
.save v(C5)
.save v(C4)
.save v(C3)
.save v(C2)
.save v(C1)
.save v(C0)




**** end user architecture code
**.ends

* expanding   symbol:  sar_10_bit.sym # of pins=23
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/sar_10_bit.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/sar_10_bit.sch
.subckt sar_10_bit RSTN busy START valid vcm vrefp ainn ainp CLK C0 C9 C1 C5 C6 C2 C7 C3 C8 C4 vss vddh Voutn vddl
*.ipin ainn
*.ipin ainp
*.ipin CLK
*.ipin vrefp
*.ipin vcm
*.opin C1
*.opin C2
*.opin C3
*.opin C4
*.opin C5
*.opin C6
*.opin C7
*.opin C8
*.opin C0
*.opin C9
*.opin busy
*.opin valid
*.ipin START
*.ipin RSTN
*.iopin Voutn
*.iopin vddh
*.iopin vss
*.iopin vddl
x1 Voutn vcn Voutp vcp vddh vss comp_clk_hv strong_arm_comp
x3 vss sample_hv sampleb_hv vddh ainp vcp tg
x4 vss sample_hv sampleb_hv vddh ainn vcn tg
x2 vcp bp3 bp0 bp5 bp2 vcm bp1 bp7 bp6 bp8 bp4 bp9 vcn bn0 bn1 bn8 bn7 bn6 bn5 bn4 bn3 bn9 bn2 vcm cdac_caps_10b_diff
x15 vddh sample_hv sampleb_hv vss inverter
x6 dbp0_hv bp0 vss vddh vrefp vcm dac_sw_2to1_tg
x7 dbp1_hv bp1 vss vddh vrefp vcm dac_sw_2to1_tg
x8 dbp4_hv bp4 vss vddh vrefp vcm dac_sw_2to1_tg
x9 dbp5_hv bp5 vss vddh vrefp vcm dac_sw_2to1_tg
x10 dbp7_hv bp7 vss vddh vrefp vcm dac_sw_2to1_tg
x11 dbp8_hv bp8 vss vddh vrefp vcm dac_sw_2to1_tg
x12 dbp2_hv bp2 vss vddh vrefp vcm dac_sw_2to1_tg
x13 dbp3_hv bp3 vss vddh vrefp vcm dac_sw_2to1_tg
x14 dbp6_hv bp6 vss vddh vrefp vcm dac_sw_2to1_tg
x16 dbp9_hv bp9 vss vddh vrefp vcm dac_sw_2to1_tg
x17 dbn0_hv bn0 vss vddh vrefp vcm dac_sw_2to1_tg
x18 dbn1_hv bn1 vss vddh vrefp vcm dac_sw_2to1_tg
x19 dbn4_hv bn4 vss vddh vrefp vcm dac_sw_2to1_tg
x20 dbn5_hv bn5 vss vddh vrefp vcm dac_sw_2to1_tg
x21 dbn7_hv bn7 vss vddh vrefp vcm dac_sw_2to1_tg
x22 dbn8_hv bn8 vss vddh vrefp vcm dac_sw_2to1_tg
x23 dbn2_hv bn2 vss vddh vrefp vcm dac_sw_2to1_tg
x24 dbn3_hv bn3 vss vddh vrefp vcm dac_sw_2to1_tg
x25 dbn6_hv bn6 vss vddh vrefp vcm dac_sw_2to1_tg
x27 dbn9_hv bn9 vss vddh vrefp vcm dac_sw_2to1_tg
x5 CLK RSTN START comp_lv sample comp_clk busy valid dbp9 dbp8 dbp7 dbp6 dbp5 dbp4 dbp3 dbp2 dbp1 dbp0 dbn9 dbn8 dbn7 dbn6 dbn5
+ dbn4 dbn3 dbn2 dbn1 dbn0 C9 C8 C7 C6 C5 C4 C3 C2 C1 C0 vddl vss sar_fsm_wrapper
x26 vss vddl vddh comp_lv Voutp Voutn comp_clk_hv level_shifter_3v3_to_1v2
x28 vss vddl vddh comp_clk_hv comp_clk level_shifter_1v2_to_3v3
x29 vss vddl vddh sample_hv sample level_shifter_1v2_to_3v3
x30 vss vddl vddh dbp0_hv dbp0 level_shifter_1v2_to_3v3
x31 vss vddl vddh dbp1_hv dbp1 level_shifter_1v2_to_3v3
x32 vss vddl vddh dbp5_hv dbp5 level_shifter_1v2_to_3v3
x33 vss vddl vddh dbp6_hv dbp6 level_shifter_1v2_to_3v3
x34 vss vddl vddh dbp2_hv dbp2 level_shifter_1v2_to_3v3
x35 vss vddl vddh dbp3_hv dbp3 level_shifter_1v2_to_3v3
x36 vss vddl vddh dbp7_hv dbp7 level_shifter_1v2_to_3v3
x37 vss vddl vddh dbp8_hv dbp8 level_shifter_1v2_to_3v3
x38 vss vddl vddh dbp4_hv dbp4 level_shifter_1v2_to_3v3
x39 vss vddl vddh dbp9_hv dbp9 level_shifter_1v2_to_3v3
x40 vss vddl vddh dbn0_hv dbn0 level_shifter_1v2_to_3v3
x41 vss vddl vddh dbn1_hv dbn1 level_shifter_1v2_to_3v3
x42 vss vddl vddh dbn5_hv dbn5 level_shifter_1v2_to_3v3
x43 vss vddl vddh dbn6_hv dbn6 level_shifter_1v2_to_3v3
x44 vss vddl vddh dbn2_hv dbn2 level_shifter_1v2_to_3v3
x45 vss vddl vddh dbn3_hv dbn3 level_shifter_1v2_to_3v3
x46 vss vddl vddh dbn7_hv dbn7 level_shifter_1v2_to_3v3
x47 vss vddl vddh dbn8_hv dbn8 level_shifter_1v2_to_3v3
x48 vss vddl vddh dbn4_hv dbn4 level_shifter_1v2_to_3v3
x49 vss vddl vddh dbn9_hv dbn9 level_shifter_1v2_to_3v3
.ends


* expanding   symbol:  strong_arm_comp.sym # of pins=7
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/strong_arm_comp.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/strong_arm_comp.sch
.subckt strong_arm_comp Voutn Vinn Voutp Vinp vdd vss CLK
*.ipin Vinn
*.opin Voutp
*.iopin vdd
*.ipin Vinp
*.ipin CLK
*.iopin vss
*.opin Voutn
XM1 P CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM2 net1 CLK vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=8 mm_ok=1
XM3 X CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM4 P Vinn net1 vss sg13_hv_nmos w=2u l=0.45u ng=1 m=6 mm_ok=1
XM5 Q Vinp net1 vss sg13_hv_nmos w=2u l=0.45u ng=1 m=6 mm_ok=1
XM6 X Y P vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM7 Y X Q vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM8 X Y vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM9 Y CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM10 Q CLK vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM11 Y X vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM12 net2 X vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM13 Voutp net2 vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM14 Voutn net3 vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM15 net3 Y vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 net2 X vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM17 Voutp Voutn vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
XM18 net3 Y vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM19 Voutn Voutp vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=4 mm_ok=1
.ends


* expanding   symbol:  tg.sym # of pins=6
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sch
.subckt tg vss ng pg vdd a b
*.ipin ng
*.iopin vdd
*.ipin pg
*.iopin a
*.iopin b
*.iopin vss
XM12 b ng a vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 b pg a vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  cdac_caps_10b_diff.sym # of pins=24
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/cdac_caps_10b_diff.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/cdac_caps_10b_diff.sch
.subckt cdac_caps_10b_diff vcp bp3 bp0 bp5 bp2 bpd bp1 bp7 bp6 bp8 bp4 bp9 vcn bn0 bn1 bn8 bn7 bn6 bn5 bn4 bn3 bn9 bn2 bnd
*.iopin vcp
*.iopin vcn
*.iopin bpd
*.iopin bp0
*.iopin bp1
*.iopin bp2
*.iopin bp3
*.iopin bp4
*.iopin bp5
*.iopin bp6
*.iopin bp7
*.iopin bp8
*.iopin bp9
*.iopin bnd
*.iopin bn1
*.iopin bn2
*.iopin bn3
*.iopin bn4
*.iopin bn5
*.iopin bn6
*.iopin bn7
*.iopin bn8
*.iopin bn9
*.iopin bn0
XC1 vcp bpd cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 vcp bp0 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC3 vcp bp1 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=2 mm_ok=1
XC4 vcp bp2 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=4 mm_ok=1
XC5 vcp bp3 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=8 mm_ok=1
XC6 vcp bp4 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=16 mm_ok=1
XC7 vcp bp5 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=32 mm_ok=1
XC8 vcp bp6 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=64 mm_ok=1
XC9 vcp bp7 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=128 mm_ok=1
XC10 vcp bp8 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=256 mm_ok=1
XC12 vcp bp9 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=512 mm_ok=1
XC11 vcn bnd cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC13 vcn bn0 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC14 vcn bn1 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=2 mm_ok=1
XC15 vcn bn2 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=4 mm_ok=1
XC16 vcn bn3 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=8 mm_ok=1
XC17 vcn bn4 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=16 mm_ok=1
XC18 vcn bn5 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=32 mm_ok=1
XC19 vcn bn6 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=64 mm_ok=1
XC20 vcn bn7 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=128 mm_ok=1
XC21 vcn bn8 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=256 mm_ok=1
XC22 vcn bn9 cap_cmomi w=5e-6 l=5e-6 mmin=1 mmax=4 feed=double subblock=0 m=512 mm_ok=1
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sch
.subckt inverter vdd Vinn Voutp vss
*.iopin vdd
*.iopin vss
*.ipin Vinn
*.opin Voutp
XM12 Voutp Vinn vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 Voutp Vinn vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  dac_sw_2to1_tg.sym # of pins=6
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/dac_sw_2to1_tg.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/dac_sw_2to1_tg.sch
.subckt dac_sw_2to1_tg sel out vss vdd vref vcm
*.ipin sel
*.iopin vdd
*.iopin vref
*.iopin vcm
*.iopin vss
*.iopin out
x1 vss sel selb vdd vref out tg
x3 vss selb sel vdd vcm out tg
x2 vdd sel selb vss inverter
.ends


* expanding   symbol:  /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/sar_fsm_wrapper.sym # of pins=40
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/sar_fsm_wrapper.sym
.include /home/arjun/eda/projects/SAR_ADC/circuit_files/src/sar_fsm/build/sar_fsm_wrapper_ihp.spice

* expanding   symbol:  level_shifter_3v3_to_1v2.sym # of pins=7
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/level_shifter_3v3_to_1v2.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/level_shifter_3v3_to_1v2.sch
.subckt level_shifter_3v3_to_1v2 vss vddl vddh out inp inn en_hv
*.iopin vddl
*.iopin out
*.iopin vss
*.iopin inp
*.iopin inn
*.iopin en_hv
*.iopin vddh
XM7 q vddl xp vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM9 xp gatep vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM8 qb vddl xn vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM11 xn gaten vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM17 lvbuf hbuf2 vss vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1 mm_ok=1
XM18 lvbuf hbuf2 vddl vddl sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1 mm_ok=1
XM3 q qb vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM4 qb q vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM5 qb q vddl vddl sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM6 q qb vddl vddl sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM14 hbuf qb vddl vddl sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM15 hbuf qb vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM19 hbuf2 hbuf vddl vddl sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM20 hbuf2 hbuf vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM21 out lvbuf vss vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1 mm_ok=1
XM22 out lvbuf vddl vddl sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1 mm_ok=1
XM23 enb en_hv vddh vddh sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
XM24 enb en_hv vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
x1 vss en_hv enb vddh inp gatep tg
x2 vss en_hv enb vddh inn gaten tg
XM25 gatep enb vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM26 gaten enb vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  level_shifter_1v2_to_3v3.sym # of pins=5
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/level_shifter_1v2_to_3v3.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/level_shifter_1v2_to_3v3.sch
.subckt level_shifter_1v2_to_3v3 vss vddl vddh out in
*.iopin vddl
*.iopin vddh
*.iopin out
*.iopin vss
*.iopin in
XM1 inb in vss vss sg13_lv_nmos w=0.6u l=0.13u ng=1 m=1 mm_ok=1
XM2 inb in vddl vddl sg13_lv_pmos w=1.2u l=0.13u ng=1 m=1 mm_ok=1
XM3 a in vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM4 b inb vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=4 mm_ok=1
XM5 b a vddh vddh sg13_hv_pmos w=2u l=0.4u ng=1 m=1 mm_ok=1
XM6 a b vddh vddh sg13_hv_pmos w=2u l=0.4u ng=1 m=1 mm_ok=1
XM12 out a vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 out a vddh vddh sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends

.GLOBAL GND
.end
